US08389511B2
(2S)-2-Hydroxy-2-phenylpropanoic acid
(2S)-2-Hydroxy-2-phenylpropanoic acid-(1S)-1-(1-naphthyl)ethanamine (1:1) (1.54 g) was dissolved in methanol (50 ml), and thereto was slowly added dropwise conc. sulfuric acid (5 ml). After the addition was complete, the mixture was refluxed for 10 hours. The reaction solution was cooled to room temperature, and concentrated under reduced pressure to remove methanol. The residue was dissolved in ethyl acetate, washed with water, a saturated aqueous sodium hydrogen carbonate solution, and a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give the title compound (0.83 g).

reactant | (2S)-2-Hydroxy-2-phenylpropanoic acid (1S)-1-(1-naphthyl)ethanamine | 1.54 g | O[C@@](C(=O)O)(C)C1=CC=CC=C1.C1(=CC=CC2=CC=CC=C12)[C@H](C)N
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 50 ml | CO | CH4O
product | (2S)-2-Hydroxy-2-phenylpropanoic acid | 0.83 g | O[C@@](C(=O)O)(C)C1=CC=CC=C1 | C9H10O3
